US05593984
Preparation of 6-carbamoyl-1-methylpyrrolo[1,2-a]pyrazine
To 2.0 g of 6-cyano-1-methylpyrrolo[1,2-a]pyrazine prepared in Preparation Example 4 were added 10 ml of water and 5 ml of hydrochloric acid; and the reaction mixture was reacted at 80° C. for 2 hours, cooled to room temperature, extracted with ethyl acetate, and concentrated. The residue was chromatographed over silica gel to obtain 1.0 g of title compound.

reactant | 6-cyano-1-methylpyrrolo[1,2-a]pyrazine | 2.0 g | C(#N)C1=CC=C2N1C=CN=C2C | C9H7N3
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | water | 10 ml | O | H2O
product | 6-carbamoyl-1-methylpyrrolo[1,2-a]pyrazine | 1.0 g | C(N)(=O)C1=CC=C2N1C=CN=C2C | C9H9N3O
